US07071225B2
Step A. 1-(1,4-Dimethoxy-naphthalen-2-yl)-propan-1-one
To a cold solution (ice bath) of 1,4-dimethoxy-naphthalene (5 g, 26.6 mmol) in dichloroethane (100 mL) was added propionyl chloride (2.7 g, 29.3 mmol) followed by aluminum chloride (3.9 g, 29.3 mmol). After the addition was complete, the reaction mixture was allowed to warm to room temperature and stirred for 4 hr. Water (200 mL) was added and the organic material was extracted with dichloromethane (200 mL). The organic extracts were dried (MgSO4) and concentrated to give a residue which was purified by flash chromatography (silica gel, ethyl acetate/hexane: 1/9) to give an oil (1.4 g): 1H NMR (DMSO-d6) δ 1.16 (t, 3H, CH3), 3.13 (q, 2H, CH2), 3.87 (s, 3H, OCH3), 3.98 (s, 3H, OCH3), 7.02 (s, 1H, Ar—H), 7.67 (m, 2H, Ar—H), 8.10 (d, 2H, Ar—H); MS 245 (M+1).

reactant | 1,4-dimethoxy-naphthalene | 26.6 mmol, 5 g | COC1=CC=C(C2=CC=CC=C12)OC | C12H12O2
reactant | propionyl chloride | 29.3 mmol, 2.7 g | C(CC)(=O)Cl | C3H5ClO
reactant | aluminum chloride | 29.3 mmol, 3.9 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | Water | 200 mL | O | H2O
solvent | dichloroethane | 100 mL | ClC(C)Cl | C2H4Cl2
product | 1-(1,4-Dimethoxy-naphthalen-2-yl)-propan-1-one | 1.4 g | COC1=C(C=C(C2=CC=CC=C12)OC)C(CC)=O | C15H16O3
